US07297704B2
Step 1: Ethyl 4-[(4-bromophenyl)thio]-3-oxocyclohexanecarboxylate
To a solution of 4-bromobenzenethiol (2.92 g, 15.45 mmol) in 20 mL acetone was added K2CO3 (2.2 g, 15.18 mmol) and a solution of ethyl 4-bromo-3-oxocyclohexanecarboxylate (3.73 g, 15 mmol) in acetone (10 mL). The resulting suspension was stirred at room temperature for 2 hour, and then was partitioned between water and hexane. The organic layer was washed with water, then brine, then was dried over MgSO4, filtered, and concentrated. Purification by chromatography on silica gel (15% EtOAc in hexane) afforded 3.4 g (61%) of the title compound as an oil: MS (ES) m/z=356 [M]+.

reactant | 4-bromobenzenethiol | 15.45 mmol, 2.92 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | K2CO3 | 15.18 mmol, 2.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 4-bromo-3-oxocyclohexanecarboxylate | 15 mmol, 3.73 g | BrC1C(CC(CC1)C(=O)OCC)=O | C9H13BrO3
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | Ethyl 4-[(4-bromophenyl)thio]-3-oxocyclohexanecarboxylate | 3.4 g, 61% | BrC1=CC=C(C=C1)SC1C(CC(CC1)C(=O)OCC)=O | C15H17BrO3S
